US07273877B2
2,3,4,5,6-Pentafluorophenyl 4-(4-bromo-2-fluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate in THF was reacted with conc. NH3 solution as for example 37, step B. Recrystallisation (EtOAc/Hexane) yielded 4-(4-bromo-2-fluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide (100%); m.p. (EtOAc/Hexane) 282-284° C. 1H NMR [400 MHz, (CD3)2SO] δ 10.39 (s, 1H), 8.35 (s, 1H), 7.89 (br s, 1H), 7.66 (dd, J=10.4, 1.7 Hz, 1H), 7.51-7.44 (br m, 2H), 7.42 (dd, J=8.5, 1.9 Hz, 1H), 5.55 (s, 1H), 3.38 (s, 3H). LCMS (ACPI−) 340 (100%), 338 (90%). Anal. Calcd for C13H11BrFN3O2: C, 45.9; H, 3.3; N, 12.4. Found C, 46.1; H, 3.2; N, 12.6.

reactant | 2,3,4,5,6-Pentafluorophenyl 4-(4-bromo-2-fluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate | BrC1=CC(=C(NC=2C(=CN(C(C2)=O)C)C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1)F | C19H9BrF6N2O3
reactant | NH3 | N | H3N
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4-bromo-2-fluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 100% | BrC1=CC(=C(NC=2C(=CN(C(C2)=O)C)C(=O)N)C=C1)F | C13H11BrFN3O2
